US08877774B2
Step 5. Methyl 4-((3-(amino(phenyl)methyl)phenoxy)methyl)benzoate hydrochloride
To a solution of methyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)-phenoxy)methyl)benzoate (3.21 g, 7.20 mmol) in methanol (36 mL), was added hydrogen chloride in dioxan (4 M, 9.0 mL, 36 mmol). The reaction mixture was stirred at room temperature for 16 hours. The solvent was removed at reduced pressure to afford the title compound (2.65 g, >95%).

reactant | methyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)-phenoxy)methyl)benzoate | 7.20 mmol, 3.21 g | C(C)(C)(C)OC(=O)NC(C=1C=C(OCC2=CC=C(C(=O)OC)C=C2)C=CC1)C1=CC=CC=C1 | C27H29NO5
reactant | hydrogen chloride | Cl | ClH
reactant | dioxan | 36 mmol, 4 M, 9.0 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 36 mL | CO | CH4O
product | Methyl 4-((3-(amino(phenyl)methyl)phenoxy)methyl)benzoate hydrochloride | 2.65 g, >95% | Cl.NC(C=1C=C(OCC2=CC=C(C(=O)OC)C=C2)C=CC1)C1=CC=CC=C1 | InChI=1S/C22H21NO3.ClH/c1-25-22(24)18-12-10-16(11-13-18)15-26-20-9-5-8-19(14-20)21(23)17-6-3-2-4-7-17;/h2-14,21H,15,23H2,1H3;1H
